US07553969B1
To a solution of Boc-Phe(4-F)-N-Me-Val-Tyr(3-tBu)-NH2 (400 mg, 0.651 mmol) in methylene chloride (6.5 ml), dimethylformamide dimethylacetal (0.26 ml, 1.954 mmol) was added at room temperature. The mixture was stirred for 30 min. and evaporated to remove the solvent under reduced pressure. To a solution of the thus obtained residue in dioxane (6.5 ml), acetic acid (2 ml) and hydrazine monohydrate (48 μl, 0.977 mmol) were added at room temperature. The mixture was stirred for 40 min., mixed with water and filtered to collect the precipitated solid. The thus obtained solid was subjected to silica gel column chromatography (developing solvent: ethyl acetate), giving 2-((2-t-butoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-triazol-2-yl)ethylamide (384 mg, 93%).

reactant | Boc-Phe(4-F)-N-Me-Val-Tyr(3-tBu)-NH2 | 0.651 mmol, 400 mg | N([C@@H](CC1=CC=C(C=C1)F)C(=O)N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)N)C)C(=O)OC(C)(C)C | C33H47FN4O6
reactant | dimethylformamide dimethylacetal | 1.954 mmol, 0.26 ml | COC(N(C)C)OC | C5H13NO2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 0.977 mmol, 48 μl | O.NN
solvent | methylene chloride | 6.5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 6.5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-((2-t-butoxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-(1,3,4-triazol-2-yl)ethylamide | 384 mg, 93% | C(C)(C)(C)C=1C=C(C=CC1O)CC(C=1NC=NN1)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)NC(=O)OC(C)(C)C)=O)=O | C34H47FN6O5
